US08106043B2
tert-Butyl methyl(2-(6-nitro-2H-benzo[b][1,4]oxazin-4(3H)-yl)ethyl)carbamate:
To an oven dried, argon purged flask fitted with a magnetic stirbar was added tert-butyl methyl(2-oxoethyl)carbamate (0.135 g, 0.777 mmol), and DCE (10 mL). At this time, stirring began, and 6-nitro-3,4-dihydro-2H-benzo[b][1,4]oxazine (0.10 g, 0.555 mmol) was added, followed by acetic acid (0.064 mL, 1.110 mmol) and sodium triacetoxyborohydride (0.294 g, 1.388 mmol). The resulting mixture stirred overnight at room temperature. After 18 hours, the reaction was quenched by the addition of saturated NaHCO3 (10 mL) and extracted with CH2Cl2. The aqueous layer was extracted further, and the combined organics were washed with brine, dried (Na2SO4), and concentrated. The crude product was combined with the product of a second reaction (prepared in accordance with the above procedure, with the omission of acetic acid). The combined products were purified on silica gel eluting with 50-70% EtOAc/hexanes to yield the title compound as a yellow residue (130 mg, 34.7%). 1H NMR (DMSO-d6) δ 7.58-7.37 (m, 2H), 6.92-6.80 (m, 1H), 4.25 (t, 2H, J=4.2 Hz), 3.58-3.36 (m, 6H), 2.87-2.74 (m, 3H), 1.27, 1.18 (2×s, 9H); ESI-MS (m/z, %): 360 (MNa+, 100).

reactant | tert-butyl methyl(2-oxoethyl)carbamate | 0.777 mmol, 0.135 g | CN(C(OC(C)(C)C)=O)CC=O | C8H15NO3
reactant | 6-nitro-3,4-dihydro-2H-benzo[b][1,4]oxazine | 0.555 mmol, 0.10 g | [N+](=O)([O-])C1=CC2=C(OCCN2)C=C1 | C8H8N2O3
reactant | sodium triacetoxyborohydride | 1.388 mmol, 0.294 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
solvent | acetic acid | 1.110 mmol, 0.064 mL | C(C)(=O)O | C2H4O2
product | tert-Butyl methyl(2-(6-nitro-2H-benzo[b][1,4]oxazin-4(3H)-yl)ethyl)carbamate | CN(C(OC(C)(C)C)=O)CCN1C2=C(OCC1)C=CC(=C2)[N+](=O)[O-] | C16H23N3O5
